US07625889B2
Step 2: 5-(3-{[[2-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-(3-fluoro-benzyl)-amino]-methyl}-4-fluoro-phenyl)-indazole-1-carboxylic acid tert-butyl ester:
Sodium triacetoxyborohydride (254 mg, 1.2 mmol) and acetic acid (48 mg, 0.8 mmol) were added to a mixture of 5-(3-{[2-(tert-butoxycarbonyl-methyl-amino)-ethylamino]-methyl}-4-fluoro-phenyl)-indazole-1-carboxylic acid tert-butyl ester (400 mg, 0.8 mmol) and 4-fluorobenzaldehyde (99 mg, 0.8 mmol) in 15 mL of dichloroethane. The mixture was stirred at ambient temperature for 80 h, and then it was diluted with water, the layers were separated and the aqueous phase was extracted with dichloromethane. The combined organic layers were washed with sequentially with water, saturated sodium bicarbonate solution and water, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with ethyl acetate/pentane) provided 360 mg of product. LC/MS: Retention time, 4.10 min; (M+H)=607.

reactant | Sodium triacetoxyborohydride | 1.2 mmol, 254 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.8 mmol, 48 mg | C(C)(=O)O | C2H4O2
reactant | 5-(3-{[2-(tert-butoxycarbonyl-methyl-amino)-ethylamino]-methyl}-4-fluoro-phenyl)-indazole-1-carboxylic acid tert-butyl ester | 0.8 mmol, 400 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=CC(=C(C=C1)F)CNCCN(C)C(=O)OC(C)(C)C | C27H35FN4O4
reactant | 4-fluorobenzaldehyde | 0.8 mmol, 99 mg | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 5-(3-{[[2-(tert-Butoxycarbonyl-methyl-amino)-ethyl]-(3-fluoro-benzyl)-amino]-methyl}-4-fluoro-phenyl)-indazole-1-carboxylic acid tert-butyl ester | 360 mg | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C1=CC(=C(C=C1)F)CN(CC1=CC(=CC=C1)F)CCN(C)C(=O)OC(C)(C)C | C34H40F2N4O4
